US07091345B2
j) 7-Nitro-4-methyl-4H-benzo[1,4]thiazin-3-one
7.3 g 7-Nitro-4H-benzo[1,4]thiazin-3-one was suspended in 65 ml DMF and treated in portions with 1.6 g of 55% sodium hydride. Stirring a room temperature was continued for 0.5 hrs, than 5.2 g methyl iodide in 15 ml DMF were added dropwise. After another 3 hrs the mixture was poured into ice water and the title product isolated by filtration in a yield of 7.5 g.

reactant | 7-Nitro-4H-benzo[1,4]thiazin-3-one | 7.3 g | [N+](=O)([O-])C1=CC2=C(NC(CS2)=O)C=C1 | C8H6N2O3S
reactant | sodium hydride | 1.6 g | [H-].[Na+]
reactant | methyl iodide | 5.2 g | CI | CH3I
solvent | DMF | 65 ml | CN(C)C=O | C3H7NO
solvent | DMF | 15 ml | CN(C)C=O | C3H7NO
product | 7-Nitro-4-methyl-4H-benzo[1,4]thiazin-3-one | [N+](=O)([O-])C1=CC2=C(N(C(CS2)=O)C)C=C1 | C9H8N2O3S
